US06660744B1
A solution of trans 1-{3-[(benzyloxy)methyl]cyclobutyl}-3-(4-phenoxyphenyl)-1H-pyrazolo[3,4-d]pyrimidin-4-amine (0.244 g, 0.00051 mol) in dichloromethane (10 mL) was cooled to −78° C. and a solution of 1.0 M boron trichloride in dichloromethane (1.53 mL, 0.00153 mol) was added dropwise, keeping the temperature less than −70° C. The reaction mixture was stirred seven hours at −78° C., after which time a 8 M solution of ammonia in methanol (1.5 mL) was added . The solvent was removed in vacuo. The residue was purified by flash column chromatography on silica using dichloromethane/methanol (93:7). The solvent was removed in vacuo to give to give trans 3-[4-amino-3-(4-phenoxyphenyl)-1H-pyrazolo[3,4-d]pyrimidin-1-yl]cyclobutylmethanol (0.192 g, 0.00049 mol) as a white solid.

reactant | trans 1-{3-[(benzyloxy)methyl]cyclobutyl}-3-(4-phenoxyphenyl)-1H-pyrazolo[3,4-d]pyrimidin-4-amine | 0.00051 mol, 0.244 g | C(C1=CC=CC=C1)OC[C@@H]1C[C@H](C1)N1N=C(C=2C1=NC=NC2N)C2=CC=C(C=C2)OC2=CC=CC=C2 | C29H27N5O2
reactant | boron trichloride | 1.0 M | B(Cl)(Cl)Cl | BCl3
reactant | ammonia | N | H3N
solvent | dichloromethane | 10 mL | ClCCl | CH2Cl2
solvent | methanol | 1.5 mL | CO | CH4O
solvent | dichloromethane | 0.00153 mol, 1.53 mL | ClCCl | CH2Cl2
product | trans 3-[4-amino-3-(4-phenoxyphenyl)-1H-pyrazolo[3,4-d]pyrimidin-1-yl]cyclobutylmethanol | 0.00049 mol, 0.192 g | NC1=C2C(=NC=N1)N(N=C2C2=CC=C(C=C2)OC2=CC=CC=C2)[C@@H]2C[C@H](C2)CO | C22H21N5O2
